US06482986B1
1-[4-(1-Hydroxy-3,3,5,5-tetramethylcyclohexyl)phenyl]ethanone, Compound V′.1
27.5 ml of a 1.6 M solution of n-butyllithium in hexane are added dropwise at −78° C. to a solution of 10 g of 1-bromo-4-(1,1-dimethoxyethyl)benzene (compound Vp) in 100 ml of tetrahydrofuran. The reaction mixture is stirred for 2 hours at this temperature. A solution of 6.92 ml of 3,3,5,5-tetramethylcyclohexanone in 20 ml of tetrahydrofuran is added over 20 minutes and the reaction mixture is stirred at −78° C. for 1 hour. After warming to room temperature, 140 ml of saturated aqueous ammonium chloride solution are added. The phases are separated after settling has taken place, the aqueous phase is extracted with diethyl ether, the organic phases are combined and dried over magnesium sulphate, and the solvents are evaporated off under reduced pressure. The oil obtained is purified by chromatography on a column of silica gel, eluting with a 95/5 (v/v) cyclohexane/ethyl acetate mixture; yield=88%; m.p.=135° C.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-bromo-4-(1,1-dimethoxyethyl)benzene | 10 g | BrC1=CC=C(C=C1)C(C)(OC)OC | C10H13BrO2
reactant | 3,3,5,5-tetramethylcyclohexanone | 6.92 ml | CC1(CC(CC(C1)(C)C)=O)C | C10H18O
reactant | ammonium chloride | 140 ml | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-[4-(1-Hydroxy-3,3,5,5-tetramethylcyclohexyl)phenyl]ethanone | yield=88% | OC1(CC(CC(C1)(C)C)(C)C)C1=CC=C(C=C1)C(C)=O | C18H26O2
